US08258141B2
A solution of (R)-pyrrolidin-3-yl-carbamic acid benzyl ester hydrochloride (0.88 g, 3.45 mmol) in DCM is free-based using sodium hydrogen carbonate solution to yield (R)-pyrrolidin-3-yl-carbamic acid benzyl ester (0.487 g, 2.22 mmol). This amine is added to N-{(1S,2R,3S,4R)-4-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-propionamide (Intermediate J) (0.5 g, 0.96 mmol) and TEA (0.224 g, 2.22 mmol) and then dissolved in NMP (7 ml). The reaction mixture is heated using microwave radiation in a Personal Chemistry Emrys™ Optimizer microwave reactor at 190° C. for 1 hour. The resulting mixture is purified by chromatography on silica eluting with 5% MeOH in DCM to yield the title compound.

reactant | (R)-pyrrolidin-3-yl-carbamic acid benzyl ester hydrochloride | 3.45 mmol, 0.88 g | Cl.C(C1=CC=CC=C1)OC(N[C@H]1CNCC1)=O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (R)-pyrrolidin-3-yl-carbamic acid benzyl ester | 2.22 mmol, 0.487 g | C(C1=CC=CC=C1)OC(N[C@H]1CNCC1)=O | C12H16N2O2
